US08633134B2
S.2 Synthesis of 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-hydroxy-2-methyl-N′-pyridin-2-ylmethyl-benzamidine (Compound 1-8 of Table C.1)
To a solution of 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzaldehyde-oxime ((i.e. the product of Example 1 Step 2, 177 mg, 0.42 mmol) in DMF (4 mL) was added N-chlorosuccinimide (67 mg, 0.50 mmol) and the mixture was stirred at 70° C. bath temperature for 30 min. After cooling to 0° C., picolylamine (85 mg, 0.79 mmol) and triethylamine (145 mg, 1.44 mmol) was added. The mixture was allowed to war to room temperature over night and was then poured on ice water. The pH was adjusted to 7 by addition of NH4Cl and the resulting precipitate was filtered off. The crude product was then purified by column chromatography on SiO2 (CH2Cl2: MeOH=96:4) to give the title compound (75 mg, 42%).

reactant | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzaldehyde-oxime | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=NO)C=C1)C)C(F)(F)F | C18H13Cl2F3N2O2
reactant | N-chlorosuccinimide | 0.50 mmol, 67 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | picolylamine | 0.79 mmol, 85 mg | N1=C(C=CC=C1)CN | C6H8N2
reactant | triethylamine | 1.44 mmol, 145 mg | C(C)N(CC)CC | C6H15N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-N-hydroxy-2-methyl-N′-pyridin-2-ylmethyl-benzamidine | 75 mg, 42% | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=NCC2=NC=CC=C2)NO)C=C1)C)C(F)(F)F | C24H19Cl2F3N4O2
